US09079853B2
5-methyl-2-oxo-1-propylindolin-3-yl benzoate
Was made in an analogous fashion to 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate using 5-methyl-1-propylindoline-2,3-dione. 1H NMR δ 8.13 (dd, 2H), 7.60 (t, 1H), 7.46 (dd, 2H), 7.27 (s, 1H), 7.17 (dd, 1H), 6.80 (d, 1H), 6.19 (s, 1H), 3.74 (m, 2H), 2.33 (s, 3H), 1.80 (m, 2H), 1.04 (t, 3H).

reactant | 1-ethyl-5-methyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CC)=O | C18H17NO3
reactant | 5-methyl-1-propylindoline-2,3-dione | CC=1C=C2C(C(N(C2=CC1)CCC)=O)=O | C12H13NO2
product | 5-methyl-2-oxo-1-propylindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=C(C=C12)C)CCC)=O | C19H19NO3
